data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_405574_2,[C:1]1([H:11])([H:12])[C:4](=[O:8])[N:3]([C:2]([H:13])([H:14])[H:15])[C:6]([H:10])=[C:5]1[O:7][H:9]>>[C:1]1([H:11])([H:12])[C:4](=[O:8])[C:5]1(/[C:6](=[N:3]/[C:2]([H:13])([H:14])[H:15])[H:10])[O:7][H:9],72.15873499997954
MR_503362_1,[C:1](\[C:2]([N:4]([H:13])[H:14])([N:6]([O:5][H:8])[N:7]([H:12])[H:15])[H:10])(=[N:3]/[H:11])[H:9]>>[C:1]([C:2]([N:4]([H:13])[H:14])(/[N:6]=[N:7]/[H:15])[H:10])([N:3]([H:11])[H:12])([O:5][H:8])[H:9],31.34864500000233
MR_694877_0,[C:1]([C:4]([O:8][H:10])=[O:9])([C:5]([N:3]([C:2]([H:15])([H:16])[H:17])[H:11])=[C:7]([H:18])[H:19])([N:6]([H:13])[H:14])[H:12]>>[C:1](=[C:4]([O:8][H:10])[O:9][H:11])([C:5]([N:3]([C:2]([H:15])([H:16])[H:17])[H:12])=[C:7]([H:18])[H:19])[N:6]([H:13])[H:14],54.87299250003403
MR_104331_1,[C:1]([C:2]([H:10])([H:11])[H:12])([C:3](=[C:4]([H:13])[H:14])[H:9])([O:5][O:6][H:7])[H:8]>>[C:1]1([C:2]([H:10])([H:11])[H:12])([H:8])[C:3]([O:5][O:6][H:7])([H:9])[C:4]1([H:13])[H:14],71.61657499999293
MR_33516_0,[C:1]([N:4](/[C:5]([C:3]([H:17])([H:18])[H:19])=[N:7]\[C:2]([H:14])([H:15])[H:16])/[C:6](=[N:8]/[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[N:4]=[C:5](\[C:3]([H:17])([H:18])[H:19])[N:7]([C:2]([H:14])([H:15])[H:16])/[C:6](=[N:8]/[H:9])[H:10])([H:11])([H:12])[H:13],44.11513250001505
MR_463716_0,[C@@:1]1([C:4]([H:15])([H:16])[H:17])([O:7][C:2]([H:9])([H:10])[H:11])[N:5]([C:3]([H:12])([H:13])[H:14])[N:6]1[H:8]>>[C:1](\[C:4]([H:15])([H:16])[H:17])([N:5]([C:3]([H:12])([H:13])[H:14])[O:7][C:2]([H:9])([H:10])[H:11])=[N:6]\[H:8],63.34424249997639
MR_615748_1,[C:1]([C:6](=[C:7]([H:18])[H:19])[H:14])([O:8]/[C:3]([C:2]([H:15])([H:16])[H:17])=[C:5](/[N:4]([H:9])[H:10])[H:13])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C@@:3]([C:2]([H:15])([H:16])[H:17])([C@@:5]([N:4]([H:9])[H:10])([C:6](=[C:7]([H:18])[H:19])[H:14])[H:13])[O:8]1,62.50276499999643
MR_420575_0,[C:1]1([C:4]([H:17])([H:18])[H:19])([H:11])[C:2]([H:12])([H:13])[N:5]([C:7]([O:8][H:10])=[O:9])[N:6]1[C:3]([H:14])([H:15])[H:16]>>[C:1]([C:2]([N:5]([N:6]([C:3]([H:14])([H:15])[H:16])[H:19])[C:7]([O:8][H:10])=[O:9])([H:12])[H:13])(=[C:4]([H:17])[H:18])[H:11],62.14195250001566
MR_262914_0,[C:1]([C:2]([O:8][H:12])([H:13])[H:14])([C:5]([C:3]([C:4]([H:17])([H:18])[H:19])([H:15])[H:16])=[O:9])([O:6][H:11])[O:7][H:10]>>[C:1]([C:5]([C:2]([O:8][H:12])([H:13])[H:14])([C:3]([C:4]([H:17])([H:18])[H:19])([H:15])[H:16])[O:9][H:11])(=[O:6])[O:7][H:10],42.23953500000647
MR_663921_0,[C:1]([N:4]([O:5][C:2]([H:11])([H:12])[H:13])[O:7][H:8])([O:6][C:3]([H:14])([H:15])[H:16])([H:9])[H:10]>>[C:1]([N:4]([O:6][C:3]([H:14])([H:15])[H:16])[O:7][H:8])([O:5][C:2]([H:11])([H:12])[H:13])([H:9])[H:10],66.47546750002505
MR_426663_2,[C:1](\[C:2]([C:3]([H:12])([H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[H:8])([N:4]([H:9])[H:10])=[N:5]/[H:11]>>[C:1]1([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[C:2]([C:6](=[C:7]([H:16])[H:17])[H:15])([H:8])[C:3]1([H:13])[H:14],71.10641750003253
MR_260769_0,[C@@:1]([C:3]([H:16])([H:17])[H:18])(/[C:5]([C:4]([H:19])([H:20])[H:21])=[C:7](/[N:6]([H:10])[H:11])[H:12])([O:8][C:2]([H:13])([H:14])[H:15])[H:9]>>[C:1](\[C:3]([H:16])([H:17])[H:18])(=[C:5](/[C:4]([H:19])([H:20])[H:21])[C@:7]([N:6]([H:10])[H:11])([O:8][C:2]([H:13])([H:14])[H:15])[H:12])[H:9],49.88185750000852
MR_370597_1,[C:1]([N:2](/[C:3]([C:4](=[C:5]([H:14])[H:15])[O:6][H:8])=[N:7]/[H:10])[H:9])([H:11])([H:12])[H:13]>>[C:1]([N:2]([C:4](/[C:3]([O:6][H:8])=[N:7]/[H:10])=[C:5]([H:14])[H:15])[H:9])([H:11])([H:12])[H:13],66.15669750000947
MR_201435_0,[C:1]([C:4]([C:3]([C:2]([O:5][H:9])=[O:6])=[O:7])=[O:8])([H:10])([H:11])[H:12]>>[C:1]([C:4]1([C:2]([O:5][H:9])=[O:6])[C:3](=[O:7])[O:8]1)([H:10])([H:11])[H:12],51.62567999999311
MR_480841_0,[N:1](/[C:3](=[C:4](/[N:2]([H:8])[H:9])[H:11])[H:10])([N:5]=[O:6])[H:7]>>[N:1]1([H:7])[C@:3]([N:5][O:6])([H:10])[C@@:4]1([N:2]([H:8])[H:9])[H:11],58.9285249999962
MR_574201_1,[C:1]([N:6][C:4]([N:3]([N:2]([N:5][O:7])[H:8])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:6]([C:4]1([H:10])[N:2]([H:8])[N:3]1[H:9])[N:5]=[O:7])([H:11])([H:12])[H:13],66.68191500000319
MR_32160_0,[N:1]([C:2](/[N:5]=[N:6]\[H:12])=[O:7])([N:3]([H:8])[H:9])[N:4]([H:10])[H:11]>>[N:1]([C:2]([N:4]([H:10])[H:11])=[O:7])([N:3]([H:8])[H:9])/[N:5]=[N:6]\[H:12],36.1835324999943
MR_151373_0,[C:1]([C:2]([H:11])([H:12])[H:13])(/[C:4](=[C:5](/[C:3]([H:14])([H:15])[H:16])[H:10])[H:9])([N:6]=[O:7])[H:8]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([H:8])[C:4]([N:6]=[O:7])([H:9])[C:5]1([C:3]([H:14])([H:15])[H:16])[H:10],65.69736749999208
MR_548328_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:4]1([N:3]([O:6][H:9])[H:10])/[C:5](=[N:7]/[H:11])[O:8]1)([H:12])[H:13]>>[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:5]([C:4]([N:3]([O:6][H:9])[H:10])=[O:8])=[N:7]/[H:11])([H:12])[H:13],41.3698199999908
MR_73807_1,[C:1]([C:2]1([H:11])[C:3]([H:14])([H:15])[O:6]1)([C:4]([N:5]([H:12])[H:13])=[O:8])([O:7][H:9])[H:10]>>[C:1](=[C:2](\[C:3]([O:6][C:4]([N:5]([H:12])[H:13])=[O:8])([H:14])[H:15])[H:11])(\[O:7][H:9])[H:10],58.51249250001217
